US07763731B2
N-[4-(3-Fluoro-5-nitro-phenoxy)-phenyl]-acetamide
To a solution of N-(4-hydroxyphenyl)acetamide (1.00 g, 6.5 mmol) in DMSO (12 ml) was added 1M t-BuOK/THF solution (7.13 ml, 7.13 mmol) dropwise at room temperature and the mixture was stirred at room temperature for 30 minutes under N2 flow. 1,3-Difluoro-5-nitrobenzene (0.89 ml, 7.8 mmol) was added at room temperature, and then the mixture was stirred at room temperature for 2 hours and at 50° C. for 2 hours under a N2 flow. The reaction mixture was cooled to room temperature, diluted with H2O, and then extracted with EtOAc. The extract washed with H2O and brine, dried over MgSO4, filtered and concentrated under vacuum giving the title compound as a pale brown solid, which was purified by washing with i-Pr2O to give the desired product as slightly brown crystal (1.73 g, 92%).

reactant | N-(4-hydroxyphenyl)acetamide | 6.5 mmol, 1.00 g | OC1=CC=C(C=C1)NC(C)=O | C8H9NO2
reactant | t-BuOK THF | 7.13 mmol, 1M, 7.13 ml | CC(C)(C)[O-].[K+].C1CCOC1
reactant | 1,3-Difluoro-5-nitrobenzene | 7.8 mmol, 0.89 ml | FC1=CC(=CC(=C1)[N+](=O)[O-])F | C6H3F2NO2
solvent | DMSO | 12 ml | CS(=O)C | C2H6OS
solvent | H2O | O | H2O
product | N-[4-(3-Fluoro-5-nitro-phenoxy)-phenyl]-acetamide | FC=1C=C(OC2=CC=C(C=C2)NC(C)=O)C=C(C1)[N+](=O)[O-] | C14H11FN2O4
